### PR TITLE
rt refine: add ReplyCap to zobj_refs'

### PR DESCRIPTION
**Pull request by corlewis**

### CODE REVIEW

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -2634,9 +2634,10 @@ lemma cteDeleteOne_reply_cap_to'[wp]:
    apply (wp hoare_vcg_ex_lift emptySlot_cte_wp_cap_other isFinalCapability_inv
         | clarsimp simp: finaliseCap_def isCap_simps | simp
         | wp (once) hoare_drop_imps)+
-   apply (fastforce simp: cte_wp_at_ctes_of)
+(*   apply (fastforce simp: cte_wp_at_ctes_of)
   apply (clarsimp simp: cte_wp_at_ctes_of isCap_simps)
-  done
+  done*)
+oops (* RT fixme: I think this is no longer true, and it currently isn't used anywhere*)
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:2640]: I agree. We can probably delete this one eventually but oops should be good for now.

**Review by mktnk3 — APPROVED** [review]
Looks good! Thanks for catching this, Corey.
